* Author: A. van Wijk
* Version: x.x
* Last modification date: 10 October 2022
* Last modification by: L. Schindler
* Copyright (c) 2022 Adriaan van Wijk, Stellenbosch University
* Permission is hereby granted, free of charge, to any person obtaining a copy
* of this cell library and associated documentation files (the "Library"), to deal
* in the Library without restriction, including without limitation the rights
* to use, copy, modify, merge, publish, distribute, sublicense, and/or sell
* copies of the Library, and to permit persons to whom the Library is
* furnished to do so, subject to the following conditions:
* The above copyright notice and this permission notice shall be included in all
* copies or substantial portions of the Library.
* THE LIBRARY IS PROVIDED "AS IS", WITHOUT WARRANTY OF ANY KIND, EXPRESS OR
* IMPLIED, INCLUDING BUT NOT LIMITED TO THE WARRANTIES OF MERCHANTABILITY,
* FITNESS FOR A PARTICULAR PURPOSE AND NONINFRINGEMENT. IN NO EVENT SHALL THE
* AUTHORS OR COPYRIGHT HOLDERS BE LIABLE FOR ANY CLAIM, DAMAGES OR OTHER
* LIABILITY, WHETHER IN AN ACTION OF CONTRACT, TORT OR OTHERWISE, ARISING FROM,
* OUT OF OR IN CONNECTION WITH THE LIBRARY OR THE USE OR OTHER DEALINGS IN THE
* LIBRARY.
*For questions about the library, contact Adriaan van Wijk, jacowijka@gmail.com
* The cell is not designed to be connected directly to passive transmission lines

.include cells\LSmitll_DCSFQ_v2p1_optimized.cir
.include cells\LSmitll_SFQDC_v2p1_optimized.cir
.include cells\LSmitll_JTL_v2p1_optimized.cir
.include cells\LSmitll_NOT_v2p1_optimized.cir
*.include translated_RYLOV.cir
*.include translated_shunt.cir

.tran 0.025p 400p 0
.param cval= 600u
I_A0 0 xa pwl(0 0 100p 0 103p cval 105p 0 200p 0 203p 0 205p 0 300p 0 303p cval 305p 0 400p 0 403p 0 405p 0) 
I_B0 0 xb pwl(0 0 105p 0 108p cval 110p 0 200p 0 203p cval 205p 0 305p 0 308p cval 310p 0 405p 0 409p 0 411p 0)
*I_B0 0 xb pwl(0 0 105p 0 108p cval 110p 0 200p 0 203p cval 205p 0 300p 0 303p 0 305p 0 405p 0 409p cval 411p 0)
*I_S0 0 xs pwl(0 0 139p 0 142p 0 144p 0 200p 0 203p 0 205p 0)

XDCSFQA LSmitll_DCSFQ xa xa1 
XDCSFQB LSmitll_DCSFQ xb xb1
*XDCSFQS LSmitll_DCSFQ xs xs1

XJTLA LSMITLL_JTL xa1 A
XJTLB LSMITLL_JTL xb1 CLK
*XJTLBB LSMITLL_JTL xb2 CLK
*XJTLS LSMITLL_JTL xs1 S

*XNOT LSMITLL_NOT AA BBclk TT 
*XJTLT LSMITLL_JTL TT T1
*RT T1 0 2

*.print i(B5.xnot) i(B7.xnot) i(B8.xnot) i(L11.xnot)

*XDSFQOR DSFQ_OR       A_CLK B_CLK JTLIN
*XSPLITA LSmitll_SPLIT A A1 A_CLK
*XSPLITB LSmitll_SPLIT B B1 B_CLK

*XJTLC LSMITLL_JTL JTLIN CLK

.model jjmit jj(rtype=1, vg=2.8mV, cap=0.07pF, r0=160, rn=16, icrit=0.1mA)
.param 	b3  	= 1.38
.param 	b4  	= 1.36
.param 	b5  	= 1
.param 	b6  	= 1
.param 	b7  	= 1
.param 	b8  	= 1
.param 	b9  	= 0.80
.param 	i1  	= 140u
.param 	i2  	= 140u
.param 	i3  	= 100u
.param 	l10  	= 2p
.param 	l2  	= 2p
.param 	l3  	= 2p
.param 	l4  	= 2p
.param 	l5  	= 2p
.param 	l6  	= 4p
.param 	l7  	= 2p
.param 	l8  	= 2p
.param 	l9  	= 2p
.param 	lp1  	= 0.2p
.param 	lp2  	= 0.2p
.param 	lp3  	= 0.2p
.param 	lp4  	= 0.2p
.param 	lp5  	= 0.2p


* Back Annotated .cir file from KiCad
b3   	12   	4   	 jjmit area=b3
b4   	12   	11   	 jjmit area=b4
b5   	6   	5   	 jjmit area=b5
b6   	7   	10   	 jjmit area=b6
b7   	14   	13   	 jjmit area=b7
b8   	15   	17   	 jjmit area=b8
b9   	8   	12   	 jjmit area=b9
i1   	0   	9   	pwl(0   	0   	5p   	i1)
i2   	0   	16   	pwl(0   	0   	5p   	i2)
i3   	0   	4   	pwl(0   	0   	5p   	i3)
l10   	17   	q   	 l10
l2   	a   	4   	 l2
l3   	clk   	5   	 l3
l4   	5   	9   	 l4
l5   	9   	10   	 l5
l6   	10   	11   	 l6
l7   	12   	13   	 l7
l8   	13   	16   	 l8
l9   	16   	17   	 l9
lp1   	6   	0   	 lp1
lp2   	7   	0   	 lp2
lp3   	14   	0   	 lp3
lp4   	15   	0   	 lp4
lp5   	8   	0   	 lp5



XJTLC LSMITLL_JTL Q Q1
Rout Q1 0 2

.print p(CLK) p(Rout)
*.print i(L2) p(B3) i(L6) p(B4) i(L7) p(B9) p(Rout)

*.print v(A) v(B) i(B6) i(B7) i(B8) p(B6) p(B7) p(B8) v(RC) v(RD) i(L3)
